US04634713
A mixture of (S)-benzyl 2,3-epoxypropyl ether (8.95 g as described in Heterocycles Vol. 16, 381, 1981), o-cyclopropylmethoxyphenol (8.95 g) in 36 ml acetone and 4 ml hexane, to which is added powdered potassium carbonate (6.9 g), is stirred at reflux in nitrogen atmosphere for 74 hours. After cooling to room temperature the solid is filtered off and washed with acetone. The filtrate is concentrated under reduced pressure, the residue is dissolved in ether, the ether solution is washed 2x with water and dried over anhydrous sodium sulfate, filtered, and the filtrate is evaporated to dryness. The crude oil is distilled in vacuo, at 199°-212°/0.2 mm to yield (S)-1-benzyloxy-3-[o-(cyclopropylmethoxy)phenoxy]-2-hydroxypropane.

reactant | (S)-benzyl 2,3-epoxypropyl ether | 8.95 g | O1[C@H](COCC2=CC=CC=C2)C1 | C10H12O2
reactant | o-cyclopropylmethoxyphenol | 8.95 g | C1(CC1)COC1=C(C=CC=C1)O | C10H12O2
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 36 ml | CC(=O)C | C3H6O
solvent | hexane | 4 ml | CCCCCC | C6H14
product | (S)-1-benzyloxy-3-[o-(cyclopropylmethoxy)phenoxy]-2-hydroxypropane | C(C1=CC=CC=C1)OC[C@@H](COC1=C(C=CC=C1)OCC1CC1)O | C20H24O4
